US06251905B1
iii) Synthesis of 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride
In a solution consisting of 10 ml of ethanol and 0.5 ml of 12N HCl was dissolved 0.88 g (2.34 mmol) of 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene. The solvent was distilled off under reduced pressure to leave 1.05 g of the desired compound (100%, white amorphous).

reactant | HCl | 12N, 0.5 ml | Cl | ClH
reactant | 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene | 2.34 mmol, 0.88 g | FC(S(=O)(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C15H19F3N4O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride | 1.05 g, 100% | Cl.Cl.FC(S(=O)(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | InChI=1S/C15H19F3N4O2S.2ClH/c16-15(17,18)25(23,24)20-7-2-1-3-8-21-10-12-5-4-6-14-19-9-13(11-21)22(12)14;;/h4-6,9,20H,1-3,7-8,10-11H2;2*1H
